US04730053
S-(2-phenylcarbamoyl-phenylselenyl)-2-mercaptopyridine
Prepared similar to example 1 from 2,5 g (9,1 mmol) of 2-phenyl-1,2-benzisoselenazole-3(2H)-one and 1,2 g (10,8 mmol) of 2-mercaptopyridine.

reactant | 2-phenyl-1,2-benzisoselenazole-3(2H)-one | 9,1 mmol, 2,5 g | C1(=CC=CC=C1)N1[Se]C2=C(C1=O)C=CC=C2 | C13H9NOSe
reactant | 2-mercaptopyridine | 10,8 mmol, 1,2 g | SC1=NC=CC=C1 | C5H5NS
product | S-(2-phenylcarbamoyl-phenylselenyl)-2-mercaptopyridine | C1(=CC=CC=C1)NC(=O)C1=C(C=CC=C1)[Se]SC1=NC=CC=C1 | C18H14N2OSSe
